US06150352
Step 1C 2-{2-[6-nitro-7-chloro-3-(3.5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid benzyl ester
To a solution of 7-chloro-3-(3,5-dimethylphenyl)-4-hydroxy-6-nitro-1H-quinolin-2-one (13.5 g in 600 mL of N,N-dimethylformamide) was added 9.2 g of 2-(2-hydroxyethyl)-piperidine-1-carboxylic acid benzyl ester and 14 g of triphenylphosphine followed by 10.4 mL of diisopropyl azodicarboxylate and the mixture stirred at room temperature. After 24 hours, the solvents were removed in vacuo and the residue resolvated in methylene chloride, washed with water and purified by flash chromatography on silica gel (hexane:ethyl acetate, 90:10; then methylene chloride:ethyl acetate, 95:5) to give the title compound (13.2 g).

reactant | 2-(2-hydroxyethyl)-piperidine-1-carboxylic acid benzyl ester | 9.2 g | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CCO | C15H21NO3
reactant | triphenylphosphine | 14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 10.4 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 7-chloro-3-(3,5-dimethylphenyl)-4-hydroxy-6-nitro-1H-quinolin-2-one | 600 mL, 13.5 g | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)O)[N+](=O)[O-] | C17H13ClN2O4
product | 2-{2-[6-nitro-7-chloro-3-(3.5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid benzyl ester | 13.2 g | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)[N+](=O)[O-])Cl)=O)C1=CC(=CC(=C1)C)C | C32H32ClN3O6
